US05698691
(7) 5-(2-Chlorophenyl)-1-isobutyl-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one
To a solution of 5-(2-chlorophenyl)-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one (2.8 g) and isobutyl bromide (2.24 ml) in dimethylformamide (20 ml) was added sodium hydride (0.82 g, 60% oil) at 0° C. The mixture was stirred for 4 hours at room temperature, then the solvent was distilled off, and the residue was purified by means of a silica-gel column chromatography to give 2.98 g of colorless crystals, m.p. 139°-140° C.

reactant | 5-(2-chlorophenyl)-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one | 2.8 g | ClC1=C(C=CC=C1)C1CCC(NC2=C1C=CC=C2)=O | C16H14ClNO
reactant | isobutyl bromide | 2.24 ml | C(C(C)C)Br | C4H9Br
reactant | sodium hydride | 0.82 g | [H-].[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-(2-Chlorophenyl)-1-isobutyl-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one | 2.98 g | ClC1=C(C=CC=C1)C1CCC(N(C2=C1C=CC=C2)CC(C)C)=O | C20H22ClNO
